US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (pyridin-4-ylmethyl)amide
5-Bromo-1,3-dihydroindol-2-one (170 mg, 0.8 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (pyridin-4-ylmethyl)amide (200 mg) to give 14 mg (4%) of the title compound as a yellow solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 0.8 mmol, 170 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (pyridin-4-ylmethyl)amide | 200 mg | N1=CC=C(C=C1)CNC(=O)C1=C(NC(=C1C)C=O)C | C14H15N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (pyridin-4-ylmethyl)amide | 14 mg, 4% | N1=CC=C(C=C1)CNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=C(C=C12)Br)=O)C | C22H19BrN4O2
